US07994196B2
A mixture of 2-bromo-5-chloro-4-(trifluoromethyl)aniline (17.1 g), trimethylsilylacetylene (14.8 ml), bistriphenylphosphinepalladium dichloride (816 mg) and triethylamine (115 ml) was stirred at 60° C. for 9 hr. The reaction mixture was ice-cooled, diethyl ether was added and the mixture was filtered through a celite (trademark) filter. The filtrate was evaporated under reduced pressure to give a brown oil. The oil was purified by silica gel column chromatography (elution solvent:ethyl acetate-hexane (1:20-1:10)) to give 5-chloro-4-(trifluoromethyl)-2-[(trimethylsilyl)ethynyl]aniline (16.5 g, yield 92%).

reactant | 2-bromo-5-chloro-4-(trifluoromethyl)aniline | 17.1 g | BrC1=C(N)C=C(C(=C1)C(F)(F)F)Cl | C7H4BrClF3N
reactant | trimethylsilylacetylene | 14.8 ml | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 115 ml | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-chloro-4-(trifluoromethyl)-2-[(trimethylsilyl)ethynyl]aniline | 16.5 g, yield 92% | ClC=1C(=CC(=C(N)C1)C#C[Si](C)(C)C)C(F)(F)F | C12H13ClF3NSi
